US05854264
Step A: 4-Pyrimidin-5-yl-benzaldehyde
A solution of Pd(OAc)2 (0.17 mmol, 38 mg), bisdiphenylphosphinoferrocene (DPPF, 0.23 mmol, 125 mg), and DMF were heated to 50° for 15 minutes. The reaction mixture was cooled. 4-Formyl-benzeneboronic acid (6.93 mmol, 1.0 g), 5-bromopyridine (6.3 nunol, 1.0 g), and Net3 (8.2 mmol; 1.11 mL) were added and the reaction mixture was heated to 90° overnight. The reaction mixture was concentrated to yield a gummy oil. Flash chromatography (EtOAc) yielded 1-3 contaminated with a small amount of 1-1. The tan solid was taken up in EtOAc and washed with saturated NaHCO3 and brine. The organic layer was dried (MgSO4), filtered and concentrated to afford the title compound as an off-white solid.

reactant | DMF | CN(C)C=O | C3H7NO
reactant | 4-Formyl-benzeneboronic acid | 6.93 mmol, 1.0 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | 5-bromopyridine | 1.0 g | BrC=1C=CC=NC1 | C5H4BrN
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.17 mmol, 38 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | bisdiphenylphosphinoferrocene | 0.23 mmol, 125 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-Pyrimidin-5-yl-benzaldehyde | N1=CN=CC(=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
